### PR TITLE
Add Erdős Problem 49 (sets on which the totient is increasing), link the formal proof

### LINKED ISSUE #6291: Erdős Problem 49
### What is the Erdős problem?

https://www.erdosproblems.com/49

Let $A=\{a_1<\cdots<a_t\}\subseteq \{1,\ldots,N\}$ be such that $\phi(a_1)<\cdots<\phi(a_t)$. The primes are such an example. Are they the largest possible? Can one show that $\lvert A\rvert<(1+o(1))\pi(N)$ or even $\lvert A\rvert=o(N)$?

Status: proved (Tao: $\lvert A\rvert \leq (1+O((\log\log x)^5/\log x))\pi(x)$, even for non-decreasing $\phi$). A formal proof exists in plby/lean-proofs (`Erdos49.erdos_49_quantitative`, Codex and GPT-5.6 Sol), including a self-contained prime number theorem with error term. Related to #415.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6291.

### What changed
Adds `FormalConjectures/ErdosProblems/49.lean` with `f N` / `g N` (largest subsets of `{1..N}` on which `φ` is strictly increasing / non-decreasing) and:
- `erdos_49` (`research solved`, `answer(True)`): `f N ≤ (1 + o(1)) π(N)` (Tao [Ta24d]).
- `erdos_49.variants.little_o` (`f N = o(N)`), `erdos_49.variants.tao` (the quantitative bound `g N ≤ (1 + O((log log N)^5 / log N)) π(N)`, for non-decreasing `φ`, as in [Er95c]), and the open `primes_maximal` (is `f N = π(N)` for all `N ≥ 2`?).

The first three are linked to plby/lean-proofs `Erdos49.erdos_49_quantitative` / `erdos_49` (Codex and GPT-5.6 Sol; 53 Mathlib-only files including a self-contained prime number theorem with error term).

### How checked
- Rebuilt all 53 files of plby's closure against this repo's Mathlib: `#print axioms Erdos49.erdos_49_quantitative` → `[propext, Classical.choice, Quot.sound]`, no `native_decide`. (plby's `Util/Density.lean` is a copy of this repo's `Set.Density` file and was replaced by an import shim.)
- Bridge compiled against the three linked statements on top of a renamed copy, same axioms (plby's maxima are `Finset.sup`s over filtered powersets; `taoRate → 0` gives the `(1+ε)` form):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge49

lemma totientStrictOn_iff (A : Finset ℕ) :
    StrictMonoOn Nat.totient (A : Set ℕ) ↔ Erdos49Plby.TotientStrictOn A := by
  unfold StrictMonoOn Erdos49Plby.TotientStrictOn
  simp only [Finset.mem_coe]

lemma totientMonotoneOn_iff (A : Finset ℕ) :
    MonotoneOn Nat.totient (A : Set ℕ) ↔ Erdos49Plby.TotientMonotoneOn A := by
  unfold MonotoneOn Erdos49Plby.TotientMonotoneOn
  simp only [Finset.mem_coe]

lemma f_eq (N : ℕ) : Erdos49.f N = Erdos49Plby.strictMaximum N := by
  unfold Erdos49.f Erdos49Plby.strictMaximum
  have hbdd : BddAbove {k | ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧
      StrictMonoOn Nat.totient (A : Set ℕ) ∧ A.card = k} :=
    ⟨N, by rintro k ⟨A, hA, -, rfl⟩; simpa using Finset.card_le_card hA⟩
  apply le_antisymm
  · refine csSup_le ⟨0, ∅, by simp, fun _ h => absurd h (by simp), by simp⟩ ?_
    rintro k ⟨A, hA, hmono, rfl⟩
    exact Finset.le_sup (f := Finset.card)
      (Erdos49Plby.mem_strictFamilies.2 ⟨hA, (totientStrictOn_iff A).1 hmono⟩)
  · apply Finset.sup_le
    intro A hA
    obtain ⟨hsub, hmono⟩ := Erdos49Plby.mem_strictFamilies.1 hA
    exact le_csSup hbdd ⟨A, hsub, (totientStrictOn_iff A).2 hmono, rfl⟩

lemma g_le (N : ℕ) (C : ℝ)
    (h : ∀ A : Finset ℕ, Erdos49Plby.MonotoneAdmissible N A →
      (A.card : ℝ) ≤ (1 + C * Erdos49Plby.taoRate N) * (Nat.primeCounting N : ℝ)) :
    (Erdos49.g N : ℝ) ≤ (1 + C * Erdos49Plby.taoRate N) * (Nat.primeCounting N : ℝ) := by
  unfold Erdos49.g
  have hbdd : BddAbove {k | ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧
      MonotoneOn Nat.totient (A : Set ℕ) ∧ A.card = k} :=
    ⟨N, by rintro k ⟨A, hA, -, rfl⟩; simpa using Finset.card_le_card hA⟩
  have hne : {k | ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧
      MonotoneOn Nat.totient (A : Set ℕ) ∧ A.card = k}.Nonempty :=
    ⟨0, ∅, by simp, fun _ h => absurd h (by simp), by simp⟩
  obtain ⟨A, hA, hmono, hcard⟩ := Nat.sSup_mem hne hbdd
  rw [← hcard]
  exact h A ⟨hA, (totientMonotoneOn_iff A).1 hmono⟩

theorem erdos_49_tao_bridge : type_of% Erdos49.erdos_49.variants.tao := by
  obtain ⟨C, hC, h⟩ := Erdos49Plby.erdos_49_quantitative
  exact ⟨C, hC, fun N hN => g_le N C (h N hN)⟩

theorem erdos_49_little_o_bridge : type_of% Erdos49.erdos_49.variants.little_o := by
  simp only [f_eq]
  exact Erdos49Plby.erdos_49

/-- `f ≤ g`, since strictly increasing sets are non-decreasing. -/
lemma f_le_g (N : ℕ) : Erdos49.f N ≤ Erdos49.g N := by
  unfold Erdos49.f Erdos49.g
  have hbdd : BddAbove {k | ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧
      MonotoneOn Nat.totient (A : Set ℕ) ∧ A.card = k} :=
    ⟨N, by rintro k ⟨A, hA, -, rfl⟩; simpa using Finset.card_le_card hA⟩
  refine csSup_le ⟨0, ∅, by simp, fun _ h => absurd h (by simp), by simp⟩ ?_
  rintro k ⟨A, hA, hmono, rfl⟩
  exact le_csSup hbdd ⟨A, hA, hmono.monotoneOn, rfl⟩

theorem erdos_49_bridge : type_of% Erdos49.erdos_49 := by
  show True ↔ _
  simp only [true_iff]
  intro ε hε
  obtain ⟨C, hC, h⟩ := Erdos49Plby.erdos_49_quantitative
  -- `taoRate N → 0`
  have hrate : Tendsto Erdos49Plby.taoRate atTop (nhds 0) := by
    have h1 := (Real.tendsto_pow_log_div_mul_add_atTop 1 0 5 one_ne_zero).comp
      (Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop)
    refine h1.congr fun N => ?_
    simp [Erdos49Plby.taoRate, Function.comp]
  have hev : ∀ᶠ N : ℕ in atTop, C * Erdos49Plby.taoRate N ≤ ε := by
    have := (hrate.const_mul C)
    rw [mul_zero] at this
    exact this.eventually (eventually_le_nhds hε)
  filter_upwards [hev, eventually_ge_atTop 10] with N hN hN10
  have hg := g_le N C (h N hN10)
  have hfg : (Erdos49.f N : ℝ) ≤ Erdos49.g N := by exact_mod_cast f_le_g N
  calc (Erdos49.f N : ℝ) ≤ Erdos49.g N := hfg
    _ ≤ (1 + C * Erdos49Plby.taoRate N) * Nat.primeCounting N := hg
    _ ≤ (1 + ε) * Nat.primeCounting N := by gcongr

end Bridge49
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«49»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/49.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/49.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]

**Review by mo271 — COMMENTED** [review]
perhaps good to check: variants.primes_maximal (is f N = π(N) for all N ≥ 2?) is marked research open. The box asks "Are they the largest possible?" and the site lists the whole problem as proved by Tao. I verified f(N) = π(N) by hand up to N = 11, but I did not find whether Tao's paper settles exact maximality; before merging, check the introduction of [Ta24d]. If it is answered there, the variant must be research solved with the answer; if not, keeping it open is right and the docstring should say Tao's bound is asymptotic only.
